US04656298
The starting material may be prepared as follows: To a solution of 8.7 g of diisopropylamine in 40 ml of tetrahydrofuran at -78° C. under an atmosphere of nitrogen are added 53.6 ml of a 1.6M solution of n-butyllithium in hexane. This solution is then stirred for a period of 10 minutes at this temperature, after which time a solution of 15.0 g of ethyl(diethoxymethyl)methylphosphinate in 20 ml of tetrahydrofuran is added. This mixture is then stirred for a period of 1 hour at -78° C. after which time a solution of 11.6 g of 4-methyl-β-nitrostyrene in 20 ml of tetrahydrofuran is introduced. This mixture is then allowed to warm to room temperature when 40 ml of a saturated ammonium chloride solution is added. The aqueous layer is then extracted with 2×25 ml of diethyl ether and the organic extracts are combined and dried over magnesium sulphate. The solvent is then evaporated under reduced pressure and the crude product chromatographed on silica gel using ethyl acetate as an eluent to give ethyl 2-(4-methylphenyl)-3-nitropropyl(diethoxymethyl)phosphinate as a viscous oil, 31P=+42.5 and +42.1 ppm (CDCl3).

reactant | diisopropylamine | 8.7 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl(diethoxymethyl)methylphosphinate | 15.0 g | C(C)OP(=O)(C)C(OCC)OCC | C8H19O4P
reactant | 4-methyl-β-nitrostyrene | 11.6 g | CC1=CC=C(C=C[N+](=O)[O-])C=C1 | C9H9NO2
reactant | ammonium chloride | 40 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 2-(4-methylphenyl)-3-nitropropyl(diethoxymethyl)phosphinate | CC1=CC=C(C=C1)C(CP(OCC)(=O)C(OCC)OCC)C[N+](=O)[O-] | C17H28NO6P
